US07790751B2
A solution of 1-benzyl-3-(4-nitro-phenoxy)-pyrrolidine (7.2 g, 24 mmol) and 1-chloromethanesulfonyl-naphthalene (5.8 g, 24 mmol) in THF was chilled in an ice bath, treated dropwise with 1.0 M potassium tert-butoxide in THF (55 mL, 55 mmol), stirred at ambient temperatures for 1 hour, 10 minutes, under nitrogen, poured into water, treated with solid sodium bicarbonate and extracted with ethyl acetate. The extracts were combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 40-60% ethyl acetate in hexane to give 1-benzyl-3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine as a brown gum/foam, 5.7 g (47.1% yield), Mass spectrum (+EI, [M+H]+) m/z 503. 1HNMR (500 MHz, DMSO-d6): δ8.44-8.46 (m, 1H), 8.27 (d, 1H, J=8.30 Hz), 8.07-8.09 (m, 1H), 7.92-7.96 (m, 2H), 7.58-7.66 (m, 3H), 7.19-7.31 (m, 5H), 6.99 (dd, 1H, J=9.15 Hz and 2.81 Hz), 6.66 (d, 1H, J=2.81 Hz), 5.24 (d, 2H, J=2.20 Hz), 4.65-4.69 (m, 1H), 3.53 (s, 2H), 2.59-2.66 (m, 2H), 2.41-2.42 (m, 1H), 2.27-2.34 (m, 1H), 2.00-2.10 (m, 1H), 1.43-1.54 ppm (m, 1H).

reactant | 1-benzyl-3-(4-nitro-phenoxy)-pyrrolidine | 24 mmol, 7.2 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H18N2O3
reactant | 1-chloromethanesulfonyl-naphthalene | 24 mmol, 5.8 g | ClCS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C11H9ClO2S
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 55 mmol, 55 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-benzyl-3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine | 47.1% yield | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C28H26N2O5S
